US08486967B2
2-{6-(4-Chloro-phenyl)-2-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamino]-pyrimidin-4-yl}-propan-2-ol
In analogy to example 29, 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine (59.5 mg, 0.3 mmol) was reacted with 2-[2-chloro-6-(4-chloro-phenyl)-pyrimidin-4-yl]-propan-2-ol (85 mg, 0.3 mmol) to give the title compound (55 mg, 41%) as off-white foam.

reactant | 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine | 0.3 mmol, 59.5 mg | CC1=NSC(=N1)N1CCC(CC1)N | C8H14N4S
reactant | 2-[2-chloro-6-(4-chloro-phenyl)-pyrimidin-4-yl]-propan-2-ol | 0.3 mmol, 85 mg | ClC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)Cl | C13H12Cl2N2O
product | 2-{6-(4-Chloro-phenyl)-2-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamino]-pyrimidin-4-yl}-propan-2-ol | 55 mg, 41% | ClC1=CC=C(C=C1)C1=CC(=NC(=N1)NC1CCN(CC1)C1=NC(=NS1)C)C(C)(C)O | C21H25ClN6OS
